US05084085
To a stirred mixture of 3.9 g (0.010 mole) of 1-[5-(5-aminopyridin-2-yloxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 10 mL of water was added 5.0 mL of concentrated hydrochloric acid. The mixture was cooled in an ice water bath, and a solution of 0.76 g (0.011 mole) of sodium nitrite in 1.4 mL of water was added portionwise. The resultant mixture was stirred at 0° C. for 30 minutes, and a solution of 1.5 g (0.014 mole) of sodium tetrafluoroborate in 5 mL of water was added portionwise. An additional 5 mL of water was added, and the reaction mixture was stirred at 0° C. for 45 minutes. The mixture was filtered, and the filter cake was rinsed with ice water followed by diethyl ether. The filter cake was dried under reduced pressure to yield 4.7 g of 2-[2-chloro-4 -fluoro-5-(4-difluoromethyl-4,5-dihydro -3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]pyridine-5-diazonium tetrafluoroborate.

reactant | 1-[5-(5-aminopyridin-2-yloxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.010 mole, 3.9 g | NC=1C=CC(=NC1)OC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C15H11ClF3N5O2
reactant | hydrochloric acid | 5.0 mL | Cl | ClH
reactant | sodium nitrite | 0.011 mole, 0.76 g | N(=O)[O-].[Na+]
reactant | sodium tetrafluoroborate | 0.014 mole, 1.5 g | F[B-](F)(F)F.[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 1.4 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 2-[2-chloro-4 -fluoro-5-(4-difluoromethyl-4,5-dihydro -3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]pyridine-5-diazonium tetrafluoroborate | 4.7 g | F[B-](F)(F)F.ClC1=C(OC2=NC=C(C=C2)[N+]#N)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | InChI=1S/C15H9ClF3N6O2.BF4/c1-7-23-25(15(26)24(7)14(18)19)11-5-12(9(16)4-10(11)17)27-13-3-2-8(22-20)6-21-13;2-1(3,4)5/h2-6,14H,1H3;/q+1;-1
